US07446199B2
1-(Toluene-4-sulfonyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine, (200 mg, 0.67 mmol), and ethyl diazoacetate, (730 μL, 7.0 mmol), were combined in 3 mL xylene and heated to 95° C. for 30 min, then to 115° C. for 4 hours. The solvent was evaporated onder vacuum and the residue purified by silica chromatography, (eluent: methylene chloride), affording 140 mg, (50%), 2-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl ]-cyclopropanecarboxylic acid ethyl ester as a mixture of cis and trans isomers. MS ES+385.3.

reactant | 1-(Toluene-4-sulfonyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 0.67 mmol, 200 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=C)C | C16H14N2O2S
reactant | ethyl diazoacetate | 7.0 mmol, 730 μL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl ]-cyclopropanecarboxylic acid ethyl ester | 140 mg, 50% | C(C)OC(=O)C1C(C1)C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H20N2O4S
